US06313312B1
6-(3-Chlorophenyl)-3-hexyl-6-methyl-3-azabicyclo[3.1.0]hexane
A solution of sodium nitrite (97 mg, 1.4 mmol) dissolved in water (2 ml) was added to 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 12, 0.17 g, 0.61 mmol) dissolved in aqueous hydrochloric acid (2.0 M, 2 ml) over a few minutes at 0° C. After 30 min at 0° C., the reaction mixture was added to copper (I) chloride (1.57 g, 15.8 mmol) in concentrated hydrochloric acid (4.0 ml). After stirring the reaction mixture at room temperature for 45 min, the reaction mixture was heated to 90° C. for 5 min. The reaction mixture was poured cautiously on to solid, pre-wetted sodium hydrogen carbonate and the product was extracted firstly with diethyl ether and then ethyl acetate. The combined organic extracts were dried (MgSO4) and then concentrated in vacuo. The crude residue was purified by chromatography on silica gel eluting with hexane:ethyl acetate (8:1) to give the product (69 mg, 39%).

reactant | sodium nitrite | 1.4 mmol, 97 mg | N(=O)[O-].[Na+]
reactant | 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 0.61 mmol, 0.17 g | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C18H28N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 2.0 M, 2 ml | Cl | ClH
reactant | hydrochloric acid | 4.0 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
catalyst | copper (I) chloride | 15.8 mmol, 1.57 g | [Cu]Cl
product | 6-(3-Chlorophenyl)-3-hexyl-6-methyl-3-azabicyclo[3.1.0]hexane | 69 mg, 39% | ClC=1C=C(C=CC1)C1(C2CN(CC12)CCCCCC)C | C18H26ClN
